US07405219B2
7-(2-Furyl)-3-(2-methoxy-5-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (Example 66)
A solution of 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine (606 mg, 3 mmol) in DMF (5 mL) at 0° C., was treated with CsCO3 (977 mg, 3 mmol), stirred for 1 h, treated with 2-methoxy-5-nitrobenzyl bromide (738 mg, 3 mmol) and stirred at room temperature for 1 h. The reaction mixture was diluted with water (10 mL), filtered and the resulting solid purified by chromatography [SiO2; EtOAc:Heptane (2:1)] to give the title compound (279 mg, 25%) as a yellow solid.

reactant | 7-(2-furyl)-1H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 3 mmol, 606 mg | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N=NN2 | C8H6N6O
reactant | 2-methoxy-5-nitrobenzyl bromide | 3 mmol, 738 mg | COC1=C(CBr)C=C(C=C1)[N+](=O)[O-] | C8H8BrNO3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
product | 7-(2-Furyl)-3-(2-methoxy-5-nitrobenzyl)-3H-[1,2,3]triazolo[4,5-d]pyrimidine-5-amine | 279 mg, 25% | O1C(=CC=C1)C=1C2=C(N=C(N1)N)N(N=N2)CC2=C(C=CC(=C2)[N+](=O)[O-])OC | C16H13N7O4
